US06211220B1
A stirred solution of methyl 3-nitrobenzimidate (7.57 g) and aminoacetaldehyde dimethylacetal (5.57 g) in methanol (20 ml) is heated under reflux for 24 hours. The cool solution is evaporated, and the residue treated with water (9.5 ml) and conc. hydrochloric acid (21 nil). The mixture is heated (steam bath) for 15 minutes and evaporated under reduced pressure. Water (50 ml) is added to the residue and the insoluble solid filtered and washed with water. The filtrate is neutralized with potassium carbonate solution and the precipitated solid filtered and washed with water. The combined solids are charcoaled and recrystallised from ethanol to give 3.87 g of 2-(3nitrophenyl)imidazole, mp 193-194.5° C.

reactant | methyl 3-nitrobenzimidate | 7.57 g | [N+](=O)([O-])C=1C=C(C(OC)=N)C=CC1 | C8H8N2O3
reactant | aminoacetaldehyde dimethylacetal | 5.57 g | COC(CN)OC | C4H11NO2
solvent | methanol | 20 ml | CO | CH4O
product | 2-(3nitrophenyl)imidazole | 3.87 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1NC=CN1 | C9H7N3O2
